US09359338B2
Step 2: Synthesis of 3-fluoro-5-nitro-1H-indole
Add borane-tetrahydrofuran complex (1M, 15 mL) dropwise to the solution of 3,3-difluoro-5-nitroindolin-2-one (650 mg, 3 mmol) in THF (10 mL) at 0° C. After addition, stir the reaction at 70° C. for 5 hrs. Concentrate under reduced pressure, add ethyl acetate to the residue, wash the organic layer with saturated sodium bicarbonate solution twice and then with brine twice, dry over anhydrous sodium sulfate. Concentrate under reduced pressure to obtain the crude product. Purify by flash chromatography (silica gel, EtOAc:PE=1:3) to yield the title compound (500 mg, 91.5%).

reactant | 3,3-difluoro-5-nitroindolin-2-one | 3 mmol, 650 mg | FC1(C(NC2=CC=C(C=C12)[N+](=O)[O-])=O)F | C8H4F2N2O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-fluoro-5-nitro-1H-indole | 500 mg, 91.5% | FC1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C8H5FN2O2
